US04680401
A mixture of 8.8 g of 2,4-dichloro-benzoylacetonitrile, 69.2 g of methyl o-formate and 10.5 g of acetic anhydride is refluxed at a bath temperature of 150° C. for 3 hours. The volatile constituents are then distilled off in vacuo and finally under a fine vacuum at a bath temperature of 120° C. 11 g of 2-(2,4-dichloro-benzoyl)-3-methoxy-acrylonitrile are obtained as a viscous oil.

reactant | 2,4-dichloro-benzoylacetonitrile | 8.8 g | ClC1=C(C(=O)CC#N)C=CC(=C1)Cl | C9H5Cl2NO
reactant | acetic anhydride | 10.5 g | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(2,4-dichloro-benzoyl)-3-methoxy-acrylonitrile | 11 g | ClC1=C(C(=O)C(C#N)=COC)C=CC(=C1)Cl | C11H7Cl2NO2
